US09085540B2
A mixture of 5-chloro-6-ethyl-3-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (200 mg), tert-butyl (3R)-3-aminopyrrolidine-1-carboxylate (360 μL), and N-methylpyrrolidone (0.8 mL) was reacted in a microwave reaction device at 190° C. for 30 minutes. The mixture was subjected to liquid separation by the addition of chloroform and a saturated aqueous sodium hydrogen carbonate solution. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated. To the obtained residue and 1,2-dichloroethane (2.6 mL) were added trifluoroacetic acid (2.6 mL) under ice-cooling, followed by stirring at room temperature for 3 hours. The mixture was diluted with chloroform and neutralized with a 5% aqueous potassium carbonate solution. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-100:10:1) to obtain 6-ethyl-3-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)-5-[(3R)-pyrrolidin-3-ylamino]pyrazine-2-carboxamide (109 mg) as a pale yellow solid.

reactant | 5-chloro-6-ethyl-3-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 200 mg | ClC=1N=C(C(=NC1CC)C(=O)N)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)C | C24H34ClN7O
reactant | tert-butyl (3R)-3-aminopyrrolidine-1-carboxylate | 360 μL | N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | N-methylpyrrolidone | 0.8 mL | CN1C(CCC1)=O | C5H9NO
product | 6-ethyl-3-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)-5-[(3R)-pyrrolidin-3-ylamino]pyrazine-2-carboxamide | 109 mg | C(C)C1=C(N=C(C(=N1)C(=O)N)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)C)N[C@H]1CNCC1 | C28H43N9O
